US03978100
A mixture of 66 g of ethyl ortho-acetate, 25 g of cyclohexylethynylcarbinol and 2.5 g of propionic acid was agitated at 130 to 135°C. for 8 hours while distilling off ethanol. The resulting liquid mixture was directly subjected to distillation under reduced pressure and a fraction boiling at 107° to 108°C. under 5 mm Hg was collected. Ethyl 5-cyclohexyl-3,4-pentadienoate was obtained in a yield of 93%.

reactant | ethyl ortho-acetate | 66 g | C(C)(OCC)([O-])[O-]
reactant | cyclohexylethynylcarbinol | 25 g | C1(CCCCC1)C#CCO | C9H14O
reactant | propionic acid | 2.5 g | C(CC)(=O)O | C3H6O2
product | Ethyl 5-cyclohexyl-3,4-pentadienoate | yield of 93% | C1(CCCCC1)C=C=CCC(=O)OCC | C13H20O2
